US04073799
In accordance with the process of Reference 1, sodium hydride (550 mg; 23 m mol), methyl acetoacetate; (2.56 g; 22 m mol), n-butyl lithium (23 m mol) and 4-bromo-2-butyne were used to obtain 2.53 g of 3-oxo-6-octynoic acid methyl ester.

reactant | sodium hydride | 550 mg | [H-].[Na+]
reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 4-bromo-2-butyne | BrCC#CC | C4H5Br
product | 3-oxo-6-octynoic acid methyl ester | 2.53 g | COC(CC(CCC#CC)=O)=O | C9H12O3
